data/polar.json
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[CH3:8][CH2:17][c:18]1[c:11]([CH3:22])[cH:12][nH:16][c:14]1[CH3:10].[O:1]=[S:5](=[O:2])([N:13]=[C:9]=[O:15])[c:20]1[cH:6][cH:3][c:19]([CH3:21])[cH:4][cH:7]1>>[O:1]=[S:5](=[O:2])([N-:13][C:9]([CH:12]1[C:11]([CH3:22])=[C:18]([CH2:17][CH3:8])[C:14]([CH3:10])=[NH+:16]1)=[O:15])[c:20]1[cH:6][cH:3][c:19]([CH3:21])[cH:4][cH:7]1", "epd": [["LP-/Pi+", [16], [14, 16]], ["Pi-/Pi+", [18, 14], [11, 18]], ["Pi-/Sigma+", [12, 11], [12, 9]], ["Pi-/LP+", [9, 13], [13]]]}
{"reaction_name": "Addition to isothiocyanates", "rsmi": "[K+:7].[c:2]1([N:18]=[C:6]=[S:10])[cH:20][cH:12][c:8]([N+:19](=[O:4])[O-:9])[cH:13][cH:21]1.[cH:1]1[c:3]([O-:17])[cH:11][cH:5][cH:15][c:16]1[CH3:14]>>[K+:7].[cH:1]1[c:3]([O:17][C:6]([S-:10])=[N:18][c:2]2[cH:20][cH:12][c:8]([N+:19](=[O:4])[O-:9])[cH:13][cH:21]2)[cH:11][cH:5][cH:15][c:16]1[CH3:14]", "epd": [["LP-/Sigma+", [17], [17, 6]], ["Pi-/LP+", [6, 10], [10]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[CH2:1]1[CH2:9][c:29]2[c:8]3[c:30]([cH:12][n:28][cH:11]2)[CH2:10][CH2:2][CH2:24][N:3]3[CH2:23]1.[cH:4]1[c:13]([CH+:27][c:14]2[cH:5][c:17]([F:21])[cH:26][c:18]([F:22])[cH:6]2)[cH:7][c:15]([F:19])[cH:25][c:16]1[F:20]>>[CH2:1]1[CH2:9][C:29]2=[CH:11][N:28]([CH:27]([c:13]3[cH:4][c:16]([F:20])[cH:25][c:15]([F:19])[cH:7]3)[c:14]3[cH:5][c:17]([F:21])[cH:26][c:18]([F:22])[cH:6]3)[CH:12]=[C:30]3[C:8]2=[N+:3]([CH2:23]1)[CH2:24][CH2:2][CH2:10]3", "epd": [["LP-/Pi+", [3], [8, 3]], ["Pi-/Pi+", [29, 8], [11, 29]], ["Pi-/Sigma+", [28, 11], [28, 27]]]}
{"reaction_name": "General nucleophilic 1,2-addition to a neutral carbonyl", "rsmi": "[Cl:9][C:33]1=[C:35]([Cl:29])[C:12](=[O:14])[C:11](=[O:13])[C:36]([Cl:30])=[C:34]1[Cl:10].[N:1]1([c:23]2[cH:27][cH:2][n:37][cH:3][cH:28]2)[CH2:19][CH2:32][CH2:4][CH:20]1[C:26]([c:24]1[cH:5][cH:15][cH:21][cH:16][cH:6]1)([c:25]1[cH:7][cH:17][cH:22][cH:18][cH:8]1)[F:31]>>[N+:1]1(=[c:23]2[cH:27][cH:2][n:37]([C:11]3([O-:13])[C:12](=[O:14])[C:35]([Cl:29])=[C:33]([Cl:9])[C:34]([Cl:10])=[C:36]3[Cl:30])[cH:3][cH:28]2)[CH2:19][CH2:32][CH2:4][CH:20]1[C:26]([c:24]1[cH:5][cH:15][cH:21][cH:16][cH:6]1)([c:25]1[cH:7][cH:17][cH:22][cH:18][cH:8]1)[F:31]", "epd": [["LP-/Pi+", [1], [1, 23]], ["Pi-/Sigma+", [3, 37], [11, 37]], ["Pi-/Pi+", [23, 28], [3, 28]], ["Pi-/LP+", [11, 13], [13]]]}
{"reaction_name": "NHC internal redox reaction", "rsmi": "[Cl:2][CH2:6][C:4](=[O:5])[H:7].[O:1]([H:3])[CH3:8]>>[Cl:2][H:3].[O:1]([C:4](=[O:5])[CH2:6][H:7])[CH3:8]", "epd": [["Sigma-/Sigma+", [4, 7], [1, 4]], ["Sigma-/Sigma+", [2, 6], [6, 7]], ["Sigma-/Sigma+", [1, 3], [2, 3]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[CH3:1][C:9]([CH3:2])([CH3:3])[c:29]1[cH:16][cH:32][cH:17][c:30]([C:10]([CH3:4])([CH3:5])[CH3:6])[c:20]1[N:31]1[C:13](=[CH:46][c:57]2[cH:38][cH:14][c:19]([N+:63](=[O:12])[O-:21])[cH:15][cH:39]2)[N:11]([c:26]2[c:35]([C:7]([CH3:40])([CH3:41])[CH3:42])[cH:33][cH:59][cH:34][c:36]2[C:8]([CH3:43])([CH3:44])[CH3:45])[N:62]=[C:37]1[c:18]1[cH:60][cH:27][cH:58][cH:28][cH:61]1.[cH:22]1[c:47]([CH+:66][c:48]2[cH:23][c:51]([F:55])[cH:65][c:52]([F:56])[cH:24]2)[cH:25][c:49]([F:53])[cH:64][c:50]1[F:54]>>[CH3:1][C:9]([CH3:2])([CH3:3])[c:29]1[cH:16][cH:32][cH:17][c:30]([C:10]([CH3:4])([CH3:5])[CH3:6])[c:20]1-[n:31]1[c:13]([CH:46]([c:57]2[cH:38][cH:14][c:19]([N+:63](=[O:12])[O-:21])[cH:15][cH:39]2)[CH:66]([c:47]2[cH:22][c:50]([F:54])[cH:64][c:49]([F:53])[cH:25]2)[c:48]2[cH:23][c:51]([F:55])[cH:65][c:52]([F:56])[cH:24]2)[n+:11](-[c:26]2[c:35]([C:7]([CH3:40])([CH3:41])[CH3:42])[cH:33][cH:59][cH:34][c:36]2[C:8]([CH3:43])([CH3:44])[CH3:45])[n:62][c:37]1-[c:18]1[cH:60][cH:27][cH:58][cH:28][cH:61]1", "epd": [["LP-/Pi+", [11], [11, 13]], ["Pi-/Sigma+", [13, 46], [46, 66]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:2]1([C:5](=[O:19])[O:28][CH3:8])[CH2:10][CH2:23][CH2:21][N:26]1[C:22]1=[CH:13][CH2:4][CH2:24][CH2:16][CH2:6]1.[N+:1]([c:12]1[cH:3][n:11][c:15]2[c:17]([n+:9]([O-:7])[o:14][n:27]2)[cH:18]1)(=[O:20])[O-:25]>>[N+:1](=[C:12]1[CH:3]=[N:11][c:15]2[c:17]([n+:9]([O-:7])[o:14][n:27]2)[CH:18]1[CH:13]1[CH2:4][CH2:24][CH2:16][CH2:6][C:22]1=[N+:26]1[CH:2]([C:5](=[O:19])[O:28][CH3:8])[CH2:10][CH2:23][CH2:21]1)([O-:20])[O-:25]", "epd": [["LP-/Pi+", [26], [22, 26]], ["Pi-/Sigma+", [13, 22], [13, 18]], ["Pi-/Pi+", [18, 12], [12, 1]], ["Pi-/LP+", [1, 20], [20]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[C:2]([O:13][C:24](=[O:10])[N:20]=[CH:12][c:8]1[cH:5][cH:16][cH:19][cH:17][cH:6]1)([CH3:21])([CH3:22])[CH3:23].[c:1]1([O-:18])[cH:14][cH:3][c:9]([O:11][CH3:7])[cH:4][cH:15]1>>[c:1]1([O:18][CH:12]([c:8]2[cH:5][cH:16][cH:19][cH:17][cH:6]2)[N:20]=[C:24]([O-:10])[O:13][C:2]([CH3:21])([CH3:22])[CH3:23])[cH:14][cH:3][c:9]([O:11][CH3:7])[cH:4][cH:15]1", "epd": [["LP-/Sigma+", [18], [18, 12]], ["Pi-/Pi+", [12, 20], [20, 24]], ["Pi-/LP+", [24, 10], [10]]]}
